US03962441
2-[2-(3-Pyridyl)-5-benzoxazolyl]propionic acid
Sodium (0.115 g.) was dissolved carefully in methanol (45 ml.) and 3-cyanopyridine (5.2 g.) was added. Next day, acetic acid (0.3 g.) was added followed by 2-(3-amino-4-hydroxyphenyl)propionic acid (9.05 g.). The stirred mixture was heated under reflux for 5 hours. The solid dissolved completely during this time. An equal volume of water was added to the hot solution. On cooling, cream crystals separated which were filtered off and re-crystallised from dimethylformamide-ethanol to yield the desired acid, m.p. 197°- 200°C.

reactant | Sodium | 0.115 g | [Na] | Na
reactant | 3-cyanopyridine | 5.2 g | C(#N)C=1C=NC=CC1 | C6H4N2
reactant | acetic acid | 0.3 g | C(C)(=O)O | C2H4O2
reactant | 2-(3-amino-4-hydroxyphenyl)propionic acid | 9.05 g | NC=1C=C(C=CC1O)C(C(=O)O)C | C9H11NO3
solvent | methanol | 45 ml | CO | CH4O
solvent | water | O | H2O
product | 2-[2-(3-Pyridyl)-5-benzoxazolyl]propionic acid | N1=CC(=CC=C1)C=1OC2=C(N1)C=C(C=C2)C(C(=O)O)C | C15H12N2O3
